US20010027196A1
2-Amino-4-cyclohexyloxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile and sodium cyclohexoxide in cyclohexanol. ES-MS m/e (%): 407 (M+Na+, 15), 385 (M+H+, 50), 303 ([M+H—C6H10]+, 100).

reactant | 2-amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O3S
reactant | sodium | [Na] | Na
solvent | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 2-Amino-4-cyclohexyloxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OC1CCCCC1)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C20H24N4O4
